US09163021B2
2-(5-Chloro-pyridin-2-yl)-N-{5-[7-fluoro-1-(2-hydroxy-1,1-dimethyl-ethyl)-1H-pyrrolo[3,2-c]pyridine-3-carbonyl]-pyridin-3-yl}-acetamide
To a solution of N-(5-{1-[2-(tert-Butyl-dimethyl-silanyloxy)-1,1-dimethyl-ethyl]-7-fluoro-1H-pyrrolo[3,2-c]pyridine-3-carbonyl}-pyridin-3-yl)-2-(5-chloro-pyridin-2-yl)-acetamide (Preparation 5, 30 mg, 62 μmol) in THF (5 mL) 4M dioxane-HCl (0.5 mL) was added and stirred at room temperature for 4 hours. The reaction was evaporated in vacuo and triturated with pentane-ether to afford the title compound as a white solid in 100% yield, 24.3 mg.

reactant | N-(5-{1-[2-(tert-Butyl-dimethyl-silanyloxy)-1,1-dimethyl-ethyl]-7-fluoro-1H-pyrrolo[3,2-c]pyridine-3-carbonyl}-pyridin-3-yl)-2-(5-chloro-pyridin-2-yl)-acetamide | 62 μmol, 30 mg | C(C)(C)(C)[Si](OCC(C)(C)N1C=C(C=2C=NC=C(C21)F)C(=O)C=2C=C(C=NC2)NC(CC2=NC=C(C=C2)Cl)=O)(C)C | C30H35ClFN5O3Si
solvent | THF | 4M, 5 mL | C1CCOC1 | C4H8O
product | 2-(5-Chloro-pyridin-2-yl)-N-{5-[7-fluoro-1-(2-hydroxy-1,1-dimethyl-ethyl)-1H-pyrrolo[3,2-c]pyridine-3-carbonyl]-pyridin-3-yl}-acetamide | 100% yield | ClC=1C=CC(=NC1)CC(=O)NC=1C=NC=C(C1)C(=O)C1=CN(C2=C1C=NC=C2F)C(CO)(C)C | C24H21ClFN5O3
